US08084623B2
To a stirred solution of 2-[hydroxy-(1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-methyl]-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.528 g, 1.03 mmol) in DCM (15 mL) at ambient temperature under nitrogen was added DMP (0.652 g, 1.54 mmol) in a single portion. After 90 minutes the reaction mixture was diluted with DCM, washed with 1 N NaOH and brine, then dried (MgSO4), filtered and concentrated in vacuo to a brown oil. Purification by chromatography (silica, 5 to 10% EtOAc in hexanes) gave 2-propyl-2-(1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.415 g, 0.809 mmol, 79%) as a yellow gum.

reactant | 2-[hydroxy-(1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-methyl]-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.03 mmol, 0.528 g | C(C)(C)(C)OC(=O)N1C(CCC1)(CCC)C(C=1C=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)O | C29H49N3O3Si
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-propyl-2-(1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.809 mmol, 0.415 g, 79% | C(C)(C)(C)OC(=O)N1C(CCC1)(C(=O)C=1C=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)CCC | C29H47N3O3Si
